US05270309
To a suspension of methyl 5,7-dichloro-4-oxo-1,4-dihydroquinoline-2-carboxylate (3 g) in dry dimethyl-formamide (20 ml) was added potassium carbonate (6.1 g) followed by benzyl bromide (1.44 ml) and the mixture stirred at room temperature for 16 hours. The reaction mixture was poured into water (100 ml) and extracted with ethyl acetate (3×100 ml), the organic layers were combined and washed with water (2×100 ml), 1M hydrochloric acid (1×100 ml), brine (2×100 ml) and dried over magnesium sulphate. The solvent was removed under reduced pressure and the crude product purified by column chromatography to give methyl 4-benzyloxy-5,7-dichloroquinoline-2-carboxylate (2.8 g). δ (360 MHz, DMSO-d6) 3.95 (3H, s, OCH3), 5.48 (2H, s, CH2), 7.35 (1H, d, p-ArH), 7.38 (2H, t, m-ArH), 7.46 (2H, d, o-ArH), 7.59 (1H, s, 3-H), 7.83 (1H, d, 6-H) and 8.11 (1H, d, 8-H).

reactant | methyl 5,7-dichloro-4-oxo-1,4-dihydroquinoline-2-carboxylate | 3 g | ClC1=C2C(C=C(NC2=CC(=C1)Cl)C(=O)OC)=O | C11H7Cl2NO3
reactant | potassium carbonate | 6.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 1.44 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 100 ml | O | H2O
solvent | dimethyl-formamide | 20 ml | CN(C=O)C | C3H7NO
product | methyl 4-benzyloxy-5,7-dichloroquinoline-2-carboxylate | 2.8 g | C(C1=CC=CC=C1)OC1=CC(=NC2=CC(=CC(=C12)Cl)Cl)C(=O)OC | C18H13Cl2NO3
